US04229449
To 33 g of 2-[α-(2-nitro-phenoxy)-benzyl]-morpholin-3-one dissolved in 60 ml of anhydrous THF there was added dropwise under stirring 16.7 ml of a 0.9 M solution of BH3 in THF. The whole was heated at reflux for 3 hours and dropwise addition under cold conditions (0°-5° C.) was then made of 3 ml of methanol and then of 3 ml of 23% HCl. The solvent was removed under reduced pressure. The residue was diluted with H2O, made alkaline and extracted with chloroform. The organic extracts were washed to neutrality, dried and evaporated to dryness, to obtain 28.6 g of 2-[α-(2-nitrophenoxy)-benzyl]-morpholine. Yield 94%.

reactant | 2-[α-(2-nitro-phenoxy)-benzyl]-morpholin-3-one | 33 g | [N+](=O)([O-])C1=C(OC(C2=CC=CC=C2)C2C(NCCO2)=O)C=CC=C1 | C17H16N2O5
reactant | methanol | 3 ml | CO | CH4O
reactant | HCl | 3 ml | Cl | ClH
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 2-[α-(2-nitrophenoxy)-benzyl]-morpholine | 28.6 g, Yield 94% | [N+](=O)([O-])C1=C(OC(C2=CC=CC=C2)C2CNCCO2)C=CC=C1 | C17H18N2O4
